US06630509B2
1-Cyano-2-[4-(2-{4-tert-butyloxycarbonylaminophenyl}ethoxy)phenyl]-1-ethoxyethane
1-Carbamoyl-2-[4-(2-{4-tert-butyloxycarbonylaminophenyl}ethoxy)phenyl]-1-ethoxyethane(0.63 g, 1.47 mmole) was dissolved in dioxane (20 ml) and pyridine (0.35 g, 4.41 mmole) was added. The mixture was placed in a ultrasonic bath for 5 minutes, then trifluoroacetic acid anhydride (0.37 g, 1.76 mmole) was added. After stirring at room temperature for 16 hours it was checked using HPLC that all the starting material was consumed. Sodium carbonate solution was added and extracted three times with dichloromethane. The organic phase was dried with magnesium sulfate and evaporated. Purification of the crude product with preparative HPLC (Kromasil C8, 7 μm, 50×250 mm) using acetronitrile (70-80%) in ammonium acetate buffer (pH 7) as mobil phase gave 0.47 g (75% yield) of the desired product.

reactant | 1-Carbamoyl-2-[4-(2-{4-tert-butyloxycarbonylaminophenyl}ethoxy)phenyl]-1-ethoxyethane | 1.47 mmole, 0.63 g | C(N)(=O)C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)OCC | C24H32N2O5
reactant | pyridine | 4.41 mmole, 0.35 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 1.76 mmole, 0.37 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 1-Cyano-2-[4-(2-{4-tert-butyloxycarbonylaminophenyl}ethoxy)phenyl]-1-ethoxyethane | 0.47 g, 75% yield | C(#N)C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)OCC | C24H30N2O4
